US08802864B2
a) N-(4-bromo-2,3-difluorophenyl)-2-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]acetyl}hydrazinecarboxamide
To a round bottom flask, 4-bromo-2,3-difluoroaniline (2 g, 9.62 mmol) and triphosgene (0.999 g, 3.37 mmol) were added under nitrogen and cooled to −78° C. Dichloromethane (40 mL) was added followed by the slow addition of Hunig's base (3.36 mL, 19.23 mmol). The reaction was allowed to warm to room temperature and analysis by LCMS indicated desired intermediate formation. The solution was re-cooled to −78° C. and 2-[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]acetohydrazide (1.051 g, 4.97 mmol) in dichloromethane (10 mL) was added. The solution was allowed to warm to room temperature, and analysis by LCMS indicated desired product formation. After 2 h of stirring at room temperature and blowing nitrogen gently over the solution, the desired product began to precipitate and was collected by filtration and dried via vacuum filtration to afford the title product (1400 mg, 63%). MS(ES)+ m/e 445.1, 447.1 M+H]+.

reactant | 4-bromo-2,3-difluoroaniline | 9.62 mmol, 2 g | BrC1=C(C(=C(N)C=C1)F)F | C6H4BrF2N
reactant | triphosgene | 3.37 mmol, 0.999 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | Hunig's base | 19.23 mmol, 3.36 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]acetohydrazide | 4.97 mmol, 1.051 g | C1(CC1)C(=O)N1C[C@@H](CC1)CC(=O)NN | C10H17N3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | Dichloromethane | 40 mL | ClCCl | CH2Cl2
product | N-(4-bromo-2,3-difluorophenyl)-2-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]acetyl}hydrazinecarboxamide | BrC1=C(C(=C(C=C1)NC(=O)NNC(C[C@H]1CN(CC1)C(=O)C1CC1)=O)F)F | C17H19BrF2N4O3
